US07396844B1
Synthesis of benzyl (3R)-3-(4-cyanobenzoylamino)-4-(3-cyanophenoxy)butyrate
1.8 g (4.38 mmol) of benzyl (3R)-3-t-butoxycarbonylamino-4-(3-cyanophenoxy)butyrate was dissolved in 20 ml of 4 N solution of hydrogen chloride in dioxane, and the solution was stirred at 0° C. for 6 hours. The solvent was evaporated, and the oily residue was dissolved in 5 ml of dichloromethane. 1.09 g (6.58 mmol) of 4-cyanobenzoyl chloride and 1.22 ml (8.76 mmol) of triethylamine were added to the solution under cooling with ice, and they were stirred at room temperature overnight. After the treatment with ethyl acetate as the extractant in an ordinary manner, the crude product was obtained, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | benzyl (3R)-3-t-butoxycarbonylamino-4-(3-cyanophenoxy)butyrate | 4.38 mmol, 1.8 g | C(C)(C)(C)OC(=O)N[C@H](CC(=O)OCC1=CC=CC=C1)COC1=CC(=CC=C1)C#N | C23H26N2O5
reactant | 4-cyanobenzoyl chloride | 6.58 mmol, 1.09 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | triethylamine | 8.76 mmol, 1.22 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | benzyl (3R)-3-(4-cyanobenzoylamino)-4-(3-cyanophenoxy)butyrate | C(#N)C1=CC=C(C(=O)N[C@H](CC(=O)OCC2=CC=CC=C2)COC2=CC(=CC=C2)C#N)C=C1 | C26H21N3O4
